US04478833
2-(4-Acetylamino-piperidino)-8-benzylthio-4-(1-oxidothiomorpholino)-pyrimido[5,4-d]pyrimidine
This compound was prepared analogous to Example 1 from 8-benzylthio-2-chloro-4-(1-oxido-thiomorpholino)pyrimido[5,4-d]pyrimidine and 4-acetylamino-piperidine.

reactant | 8-benzylthio-2-chloro-4-(1-oxido-thiomorpholino)pyrimido[5,4-d]pyrimidine | C(C1=CC=CC=C1)SC1=NC=NC2=C1N=C(N=C2N2CCS(CC2)=O)Cl | C17H16ClN5OS2
reactant | 4-acetylamino-piperidine | C(C)(=O)NC1CCNCC1 | C7H14N2O
product | 2-(4-Acetylamino-piperidino)-8-benzylthio-4-(1-oxidothiomorpholino)-pyrimido[5,4-d]pyrimidine | C(C)(=O)NC1CCN(CC1)C=1N=C(C2=C(N1)C(=NC=N2)SCC2=CC=CC=C2)N2CCS(CC2)=O | C24H29N7O2S2
